US09403835B2
Step 2: 5,6,7-trimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene hydrochloride
A 4M solution of HCl in 1,4-dioxane (1.24 mL; 4.96 mmol; 15 eq.) was added to a solution of 5,6,7-trimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester (100 mg; 0.33 mmol; 1 eq.) in 1,4-dioxane (5 mL) and the resulting mixture was stirred at room temperature for 18 hours. The solvent was evaporated in vacuo and the residue was triturated in 1,4-dioxane. Concentration to dryness afforded the title compound (65 mg, 82%) as a white solid. 1H NMR (DMSO-d6) δ 10.40-10.30 (m, 1H), 4.57-4.50 (m, 4H), 2.73 (s, 3H), 2.54 (s, 3H), 2.28 (s, 3H). HPLC (max plot) 100.0%; Rt 1.26 min. UPLC/MS: (MS+) 203.1 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | 5,6,7-trimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 0.33 mmol, 100 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)C)C)C1 | C16H22N4O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4.96 mmol, 1.24 mL, 15 eq. | O1CCOCC1 | C4H8O2
product | 5,6,7-trimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene hydrochloride | 65 mg, 82% | Cl.CC=1C(=C(N2N=C3C(=C2N1)CNC3)C)C | InChI=1S/C11H14N4.ClH/c1-6-7(2)13-11-9-4-12-5-10(9)14-15(11)8(6)3;/h12H,4-5H2,1-3H3;1H
